US06413980B1
3-Cyano-4-fluoroaniline (3.7 mmol, 0.5 g) in conc. HCl (4 mL) was cooled to 0° C. and NaNO2 (4.4 mmol, 0.3 g) in water (3 mL). This was stirred at 0° C. for 30 min, then acetic acid (1.3 mL) was added. SnCl2•(H2O)2 (8.5 mmol, 1.9 g) in 1:1 water: conc. HCl (3 mL) was added dropwise to the cold solution and stirred for an additional 30 min. To this mixture 1-[4-bromophenyl]-3-hydroxy-4-acetyl-5,6-dihydropyridin-2-one (3.9 mmol, 1.2 g) was slurried in MeOH (20 mL) and added with the aid of additional MeOH (6 mL). The suspension was heated at 50° C. for 3 h, then cooled at 10° C. for 18 h. The product, 1-[3-cyano-4-fluorophenyl]-3-methyl-6-[4-bromophenyl]-1,4,5,6-tetrahydro-7H-pyrazolo[3,4-c]-pyridin-7-one, was isolated by filtration. There was obtained 1.34 g (3.2 mmol) of product; mp 237.6° C., LRMS (M+H)+: 425.2/427.1 m/z.

reactant | 3-Cyano-4-fluoroaniline | 3.7 mmol, 0.5 g | C(#N)C=1C=C(N)C=CC1F | C7H5FN2
reactant | NaNO2 | 4.4 mmol, 0.3 g | N(=O)[O-].[Na+]
reactant | acetic acid | 1.3 mL | C(C)(=O)O | C2H4O2
reactant | 1-[4-bromophenyl]-3-hydroxy-4-acetyl-5,6-dihydropyridin-2-one | 3.9 mmol, 1.2 g | BrC1=CC=C(C=C1)N1C(C(=C(CC1)C(C)=O)O)=O | C13H12BrNO3
solvent | HCl | 4 mL | Cl | ClH
solvent | water | 3 mL | O | H2O
solvent | MeOH | 20 mL | CO | CH4O
solvent | MeOH | 6 mL | CO | CH4O
solvent | HCl | 3 mL | Cl | ClH
product | 1-[3-cyano-4-fluorophenyl]-3-methyl-6-[4-bromophenyl]-1,4,5,6-tetrahydro-7H-pyrazolo[3,4-c]-pyridin-7-one | C(#N)C=1C=C(C=CC1F)N1N=C(C2=C1C(N(CC2)C2=CC=C(C=C2)Br)=O)C | C20H14BrFN4O
